US03954860
Diphenyl 1-(morpholinosulfonylamino)ethylphosphonate ##EQU26##
A mixture of 0.15 mole each of triphenyl phosphite, acetaldehyde, and morpholinosulfonylamine in 100g of chlorobenzene is warmed at 100°C. for 1.25 hrs, and the reaction mixture is stripped to 110°/0.15mm. The cooled residue is diluted with 100ml of ether, causing separation of 34.5g of crude solid product. Recrystallization of a portion from isopropyl alcohol gives a white solid, mp 104.5°-108°, 31 p nmr(DMSO-d6) -18.1 ppm.

reactant | triphenyl phosphite | 0.15 mole | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | morpholinosulfonylamine | O1CCN(CC1)S(=O)(=O)N | C4H10N2O3S
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
solvent | ether | 100ml | CCOCC | C4H10O
product | Diphenyl 1-(morpholinosulfonylamino)ethylphosphonate | O1CCN(CC1)S(=O)(=O)NC(C)P(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C18H23N2O6PS
